US03990881
1,3-Dimethyl-1-[5-[N-methyl-N-(3-pyridylmethyl)sulfamoyl]-1,3,4-thiadiazol-2-yl]urea
To a solution of 5.7 g. of 2-methylamino-5-[N-methyl-N-(3-pyridylmethyl)sulfamoyl]-1,3,4-thiadiazole (from Preparation 4) in 100 ml. of toluene was added 3 g. of methyl isocyanate. The mixture was heated at reflux for about 5 hours. The mixture was cooled and concentrated in vacuo to yield a semisolid residue. A sample of the semisolid subjected to thin layer chromatography in ethyl acetate showed three spots. The semisolid was chromatographed on a silica gel column using ethyl acetate. The eluate corresponding to the second spot material was collected. The eluate was concentrated to dryness in vacuo, leaving a residue. The residue was recrystallized from ethyl acetate to yield white crystals having a melting point of about 169°-170° C., and weighing about 2.2 g. The product was identified by NMR spectrum and elemental analyses as 1,3-dimethyl-1-[5-[N-methyl-N-(3-pyridylmethylsulfamoyl]-1,3,4-thiadiazol-2-yl]urea.

reactant | 2-methylamino-5-[N-methyl-N-(3-pyridylmethyl)sulfamoyl]-1,3,4-thiadiazole | CNC=1SC(=NN1)S(N(CC=1C=NC=CC1)C)(=O)=O | C10H13N5O2S2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-Dimethyl-1-[5-[N-methyl-N-(3-pyridylmethyl)sulfamoyl]-1,3,4-thiadiazol-2-yl]urea | CN(C(=O)NC)C=1SC(=NN1)S(N(CC=1C=NC=CC1)C)(=O)=O | C12H16N6O3S2
